US05336673
Synthesis of 1-aminobenzimidazole
In a mixed slovent of water(50 ml) and ethanol(50 ml) was dissolved 19.64 g(35 mmol) of potassium hydroxide and 5.91 g(5 mmol) of 1H-benzimidazole was added thereto. Water(10 ml) containing 14.41 g (125 mmol) of hydroxylamine-O-sulfonic acid was slowly added while maintaining the temperature at 30° C. and the mixture was stirred at the same temperature for 18 hours.

reactant | potassium hydroxide | 35 mmol, 19.64 g | [OH-].[K+]
reactant | 1H-benzimidazole | 5 mmol, 5.91 g | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | hydroxylamine-O-sulfonic acid | 125 mmol, 14.41 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | 10 ml | O | H2O
product | 1-aminobenzimidazole | NN1C=NC2=C1C=CC=C2 | C7H7N3
